US05093370
1,4-Bis(5-carboxypentyl)benzene
First, 483 mg of metallic sodium was dissolved in 21 ml of absolute ethanol, and after adding dropwise 6.72 g of diethyl malonate under ice-cooling, the mixture was refluxed for 5 minutes. After cooling, a mixture of 3.48 g of 1,4-bis(4-bromobutyl)benzene and 1.12 g of diethyl malonate was added dropwise at a room temperature, and the mixture was refluxed for 50 minutes. To the resulting white suspension, after cooling, 21 ml of ice water was added. The mixture was adjusted to pH 7.0 with 1N hydrochloric acid, and evaporated under a reduced pressure to remove the ethanol. The aqueous layer was twice extracted with 50 ml of benzene, and the extract was washed with a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated under a reduced pressure to remove the solvent, and then the remaining diethyl malonate at 140° C. To the colorless oil thus obtained were added 30 ml of acetic acid and 30 ml of concentrated hydrochloric acid, and the mixture was refluxed for 20 hours, and then cooled. The resulting crystal was filtered, washed with water and dried to obtain 2.11 g of the title compound as a colorless crystal.

reactant | sodium | 483 mg | [Na] | Na
reactant | diethyl malonate | 6.72 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,4-bis(4-bromobutyl)benzene | 3.48 g | BrCCCCC1=CC=C(C=C1)CCCCBr | C14H20Br2
reactant | diethyl malonate | 1.12 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | ethanol | 21 ml | C(C)O | C2H6O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1,4-Bis(5-carboxypentyl)benzene | 2.11 g | C(=O)(O)CCCCCC1=CC=C(C=C1)CCCCCC(=O)O | C18H26O4
